US09120823B2
A mixture of N2-(2,2,2-trifluoroethyl)-5-trifluoromethylpyridin-2,3-diamine (0.52 g), 3-ethylsulfanyl-5-trifluoromethylpyridin-2-carboxylic acid (0.50 g), WSC (0.46 g), HOBt (27 mg) and pyridine (2 ml) was stirred at room temperature for 3 hours. To the reaction mixture was poured aqueous 10% citric acid solution, and then the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure to give 3-ethylsulfanyl-5-trifluoromethylpyridin-2-carboxylic acid [2-(2,2,2-trifluoroethyl)amino-5-trifluoromethylpyridin-3-yl]amide (0.89 g), which is hereinafter referred to as “intermediate compound (M3-44)”.

reactant | N2-(2,2,2-trifluoroethyl)-5-trifluoromethylpyridin-2,3-diamine | 0.52 g | FC(CNC1=NC=C(C=C1N)C(F)(F)F)(F)F | C8H7F6N3
reactant | 3-ethylsulfanyl-5-trifluoromethylpyridin-2-carboxylic acid | 0.50 g | C(C)SC=1C(=NC=C(C1)C(F)(F)F)C(=O)O | C9H8F3NO2S
reactant | WSC | 0.46 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 27 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-ethylsulfanyl-5-trifluoromethylpyridin-2-carboxylic acid [2-(2,2,2-trifluoroethyl)amino-5-trifluoromethylpyridin-3-yl]amide | 0.89 g | FC(CNC1=NC=C(C=C1NC(=O)C1=NC=C(C=C1SCC)C(F)(F)F)C(F)(F)F)(F)F | C17H13F9N4OS
